US04041044
When in Example 1, the 2'hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene is replaced by an equivalent amount of 2'-hydroxy-3'-(α-methylbenzyl)-5'-methyl-2-nitroazobenzene, the product 2-(2-hydroxy-3-(α-methylbenzyl)-5-methylphenyl)-2H-benzotriazole is obtained.

reactant | 2'hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C22H29N3O3
reactant | 2'-hydroxy-3'-(α-methylbenzyl)-5'-methyl-2-nitroazobenzene | OC1=C(C=C(C=C1C(C1=CC=CC=C1)C)C)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C21H19N3O3
product | 2-(2-hydroxy-3-(α-methylbenzyl)-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1C(C1=CC=CC=C1)C)C)N1N=C2C(=N1)C=CC=C2 | C21H19N3O
